US05840911
a) 2-Amino-1-benzylideneamino-4-(3-methoxyphenyl)-imidazole
A solution of 16.2 g (0.1 mol) of benzaldehyde guanylhydrazone and 11.8 g (0.050 mol) of 3-methoxyphenacyl bromide (Aldrich, Buchs, Switzerland; 98 %, Cat. no. 11,567-3) in 50 ml of ethanol is stirred at 20° C. for 3 hours. The product that has crystallized out is filtered off with suction and dried. In that manner there is obtained the title compound, m.p. 170°-171° C., 1H-NMR (DMSO): δ=8.56 (s, 1H); 8.03 (s, 1H); 7.92 (m, 2H); 7.5 (m, 3H); 7.26 (m, 3H); 6.76 (m, 1H); 6.2 (s, 2H); 3.8 (s, 3H).

reactant | benzaldehyde guanylhydrazone | 0.1 mol, 16.2 g | C(N)(=N)NN=CC1=CC=CC=C1 | C8H10N4
reactant | 3-methoxyphenacyl bromide | 0.050 mol, 11.8 g | COC=1C=C(C(CBr)=O)C=CC1 | C9H9BrO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Amino-1-benzylideneamino-4-(3-methoxyphenyl)-imidazole | NC=1N(C=C(N1)C1=CC(=CC=C1)OC)N=CC1=CC=CC=C1 | C17H16N4O
